US08071796B2
4) Synthesis of [4-(5-fluoro-2,3-dihydrobenzo-furan-7-yl)-4-methyl-2-(trifluoromethyl)pentane-1,2-diol]
A solution of 6.6 mol 4-(5-fluoro-2,3-dihydro-benzofuran-7-yl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanoic acid in 77 ml of THF is cooled to 4° C. 12 mmol of lithium aluminumhydride is added portionwise to the solution. The mixture is stirred at 4° C. for 60 minutes, and stirred for 8-9 hours under reflux conditions. After complete reaction (TLC control) the mixture is cooled to 4° C. and treated with 1 ml of saturated NaHCO3 solution. The mixture is stirred for at least 2 hours whereupon the colour of the mixture turns from grey to white. The precipitated aluminium salts are filtered off and washed with 10 ml of hot THF. The solvent is evaporated under vacuum. The residue is purified by recrystallization from dichloromethane and n-heptane. (yield 73.7%).

reactant | 4-(5-fluoro-2,3-dihydro-benzofuran-7-yl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanoic acid | 6.6 mol | FC=1C=C(C2=C(CCO2)C1)C(CC(C(=O)O)(C(F)(F)F)O)(C)C | C15H16F4O4
reactant | lithium | 12 mmol | [Li] | Li
reactant | NaHCO3 | 1 ml | C(=O)(O)[O-].[Na+]
solvent | THF | 77 ml | C1CCOC1 | C4H8O
product | 4-(5-fluoro-2,3-dihydrobenzo-furan-7-yl)-4-methyl-2-(trifluoromethyl)pentane-1,2-diol | yield 73.7% | FC=1C=C(C2=C(CCO2)C1)C(CC(CO)(O)C(F)(F)F)(C)C | C15H18F4O3
